US05856503
Allyl-[6-[4-(4-bromo-phenyl)-quinolin-7-yloxy]-hexyl]-methyl-amine
A solution of 0.5 g of (RS)-1-[4-[6-(allyl-methyl-amino)-hexyloxy]-2-amino-phenyl]-1-(4-bromo-phenyl)-prop-2-en-1-ol is added dropwise at 0° C. within 10 min. to a suspension of 0.25 g of pyridinium chlorochromate in methylene chloride. After 1.5 hr. at room temperature water is added, the mixture is adjusted to pH 12 with 2M sodium hydroxide and extracted with methylene chloride. The organic phase is dried, concentrated and the residue is purified over silica gel with methylene chloride/methanol 95:5 as the eluent. 80 mg of the title compound are obtained. 53 mg thereof are dissolved in methylene chloride/ethyl acetate and stirred with 26 mg of fumaric acid. After filtration there is obtained allyl-[6-[4-(4-bromo-phenyl)-quinolin-7-yloxy]-hexyl]-methyl-amine.fumarate (1:3), m.p 70° C., MS: m/e 453 (M+H+, 1 Br).

reactant | (RS)-1-[4-[6-(allyl-methyl-amino)-hexyloxy]-2-amino-phenyl]-1-(4-bromo-phenyl)-prop-2-en-1-ol | 0.5 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(C=C)(O)C1=CC=C(C=C1)Br)N)C | C25H33BrN2O2
reactant | pyridinium chlorochromate | 0.25 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Allyl-[6-[4-(4-bromo-phenyl)-quinolin-7-yloxy]-hexyl]-methyl-amine | 80 mg | C(C=C)N(C)CCCCCCOC1=CC=C2C(=CC=NC2=C1)C1=CC=C(C=C1)Br | C25H29BrN2O
